US07157464B2
Synthesis of 4-Chloro-5-(5-chloro-thiophen-2-yl)-2-{2-[4-(4-fluoro-phenyl)-piperazin-1-yl]-2-oxo-ethyl}-2H-pyrazole-3-carboxylic acid ethyl ester
Protocol T was followed using 4-Chloro-5-(5-chloro-thiophen-2-yl)-2H-pyrazole-3-carboxylic acid ethyl ester, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=2/3) afforded the title compound as a yellow solid. 1H NMR (400 MHz, CDCl3): 7.46–7.48 (m, 1H), 6.94–7.1 (m, 2H), 6.84–6.92 (m, 3H), 5.4 (s, 2H), 4.34–4.4 (q, 2H), 3.62–3.81 (m, 4H), 3.04–3.24 (m, 4H), 1.36–1.44 (m, 3H). MS (ES) M+H) expected=511.41, found 511.

reactant | 4-Chloro-5-(5-chloro-thiophen-2-yl)-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1NN=C(C1Cl)C=1SC(=CC1)Cl | C10H8Cl2N2O2S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 4-Chloro-5-(5-chloro-thiophen-2-yl)-2-{2-[4-(4-fluoro-phenyl)-piperazin-1-yl]-2-oxo-ethyl}-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1Cl)C=1SC(=CC1)Cl)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C22H21Cl2FN4O3S
